US05521170
To a solution of 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (700 mg) in pyridine (10 ml) was added 3,4-dimethoxybenzenesulfonyl chloride (1.07 g) and the mixture was stirred at ambient temperature for 2 hours. The resulting mixture was diluted with ethyl acetate, and then the organic solution was washed successively with 0.5N hydrochloric acid, saturated aqueous sodium bicarbonate solution and brine. Drying, filtering and the removal of solvents afforded a crude product. The crude product was triturated with a mixture of diethyl ether and n-hexane (1:1) to give 5-(3,4-dimethoxybenzenesulfonyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.33 g) as a yellow powder.

reactant | 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 700 mg | N1C(CCNC2=C1C=CC=C2)=O | C9H10N2O
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 1.07 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,4-dimethoxybenzenesulfonyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 1.33 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1CCC(NC2=C1C=CC=C2)=O | C17H18N2O5S
